US03992531
2,6-Diacetamido-9-(Triacetyl-β-D-Ribofuranosyl)Purine (V)
The dried chloromercuri derivative (24 g., 0.05 mole) of 2,6-diacetamidopurine was refluxed in xylene using a Dean-Stark water separator. Freshly prepared triacetyl-D ribofuranosyl chloride in xylene was added to the hot chloromercuri derivative and the mixture was refluxed, in an oil bath, with vigorous stirring. After 41/2 hours the reaction mixture was allowed to stand overnight at room temperature and then filtered. The precipitate was extracted (several times) with warm CHCl3. The CHCl3 extract was washed successively with 30% aqueous KI (thrice), water (thrice) dried, charcoaled and filtered. The filtrate was evaporated in vacuo, and the residue on trituration with ether gave 14.3 g. (58%; m.p. 87°-92°) of 2,6-diacetamido-9-triacetyl-β-D-ribofuranosyl purine.

reactant | 2,6-diacetamidopurine | 0.05 mole, 24 g | C(C)(=O)NC1=NC(=C2NC=NC2=N1)NC(C)=O | C9H10N6O2
reactant | water | O | H2O
reactant | triacetyl-D ribofuranosyl chloride | C(C)(=O)[C@@]1([C@](C(O[C@@H]1CO)(C(C)=O)Cl)(O)C(C)=O)O | C11H15ClO7
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,6-Diacetamido-9-(Triacetyl-β-D-Ribofuranosyl)Purine | C(C)(=O)NC1=NC(=C2N=CN(C2=N1)[C@]1([C@](O)([C@](O)([C@H](O1)CO)C(C)=O)C(C)=O)C(C)=O)NC(C)=O | C20H24N6O9
